* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R1 N001 N002 15.00k
R2 N002 N003 5.60k
R3 N002 0 8.20
R4 N003 N004 3.90k
R5 N005 N004 1.00M
R6 0 N004 33.00k
R7 N003 N005 330.00k
V1 N001 0 30

.end